US08013159B2
Step 1: Diethyl pyridine-2,3-dicarboxylate 1
To a suspension of 2,3-pyridinedicarboxylic acid (200 g, 1.2 mol) in ethanol (800 ml) was added conc H2SO4 (100 ml) and this mixture was heated to reflux for 3 days (mechanical stirring). It was then cooled down to r.t. and added to crushed ice. Conc NH4OH (405 ml) was then added slowly and the pH was adjusted to 9 by addition of some aq. NH4Cl. The products were extracted into i-PrOAc, dried over Na2SO4 and concentrated to yield 182.48 g of an orange oil containing 88% of the diester (60% yield), 8.1% of ethyl 3-pyridinecarboxylate and 3.5% i-PrOAc. This mixture was used as such in the next step.

reactant | ethyl 3-pyridinecarboxylate | N1=CC(=CC=C1)C(=O)OCC | C8H9NO2
reactant | i-PrOAc | C(C)(C)OC(=O)C | C5H10O2
product | Diethyl pyridine-2,3-dicarboxylate | N1=C(C(=CC=C1)C(=O)OCC)C(=O)OCC | C11H13NO4
